US04886806
8 g of 3',4',5'-trimethoxy-flavone-3-carboxylic acid with 5.5 g 4-dimethylaminopyridine and 2.2 ml mesylchloride in 100 ml absolute dichloromethane were converted into the mixed anhydride analogously to Example 1 (a), and this was then reacted with 3.6 g 1-(2-pyridyl)-piperazine analogously to Example 1 (b). The working up of the reaction mixture and the purification of the crude title compound obtained were carried out analogously to Example 1 (b). 7.5 g of 3',4',5'-trimethoxy-3-{[4-(2-pyridyl)-piperazin-1-yl]-carbonyl}flavone were obtained.

reactant | 3',4',5'-trimethoxy-flavone-3-carboxylic acid | 8 g | COC=1C=C(C=2OC3=CC=CC=C3C(C2C(=O)O)=O)C=C(C1OC)OC | C19H16O7
reactant | mesylchloride | 2.2 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 1-(2-pyridyl)-piperazine | 3.6 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
catalyst | 4-dimethylaminopyridine | 5.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3',4',5'-trimethoxy-3-{[4-(2-pyridyl)-piperazin-1-yl]-carbonyl}flavone | 7.5 g | COC=1C=C(C=2OC3=CC=CC=C3C(C2C(=O)N2CCN(CC2)C2=NC=CC=C2)=O)C=C(C1OC)OC | C28H27N3O6
